Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / Cephalosporins
 
Attending: ___.
 
Chief Complaint:
fall with L1 burst fracture
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ transferred from ___ with L1 burst fracture after 
unwitnessed
fall at assisted living, unclear circumstances around fall, but
denies head strike or LOC. She was being visited by her daughter
and complaining of back pain and endorsed her fall happened 2
days before then, which prompted her presentation to ___ ED.
Denies chest pain or shortness of breath. Also complains of of
some left leg pain, which she has had for years and is 
unchanged.
She is not on any anticoagulant medications. She was seen at
___ where a CT scan of the L-spine showed 
a
burst L1 fracture. Was seen by neurosurgery spine in 
consultation
in the ED who recommended a TLSO brace, ___, and outpatient 
follow
up in 6 weeks. Trauma surgery is now consulted to rule out other
injuries. She also endorses feeling some dizziness, but denies
head strike or LOC during fall. 
 
Past Medical History:
Past Medical History:
COPD, Stage III CKD, CAD (anteroseptal infarct per CHA records,
was on aspirin and then stopped it), HTN, Cataracts, Bipolar,
Schizoaffective disorder, LLE DVT ___, got ___ year of
coumadin), orofacial dyskinesia, akathisia/tardive dyskinesia,
constipation, B12 deficiency, Vit D deficiency

Past Surgical History:
cholecystectomy, cataract extraction
 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
Admission Physical Exam
Physical Exam:
Vitals: Tm 98.8, Tc 97.8, HR 93, BP 145/88, RR 16, SPo2 95% RA
GEN: Is able to answer the examiners questions appropriately. Is
in TLSO brace.
HEENT: NCAT, PERRL, no c-spine TTP. 
CV: RRR
PULM: Clear to auscultation. No chest wall TTP.
ABD: Soft, nondistended, nontender
Ext: No evidence of fracture or traumatic injury. 

Discharge Physical Exam
Vitals: T 97.5  BP 132 / 75  HR 82 RR 18 PO296 Ra 
Gen: NAD, AxOx3
Card: RRR
Pulm: no respiratory distress
Abd: Soft, non-tender, non-distended  
Ext: No edema, warm well-perfused, moves all 4 extremities,
neurosensory intact 
 
Pertinent Results:
___ CT T-spine (CHA)- chronic compression fractures of T7, 
T8, T10 and T11. Osteopenia. 

___ CT L-spine (CHA)- Acute fracture of L1. Minimal central 
canal narrowing. No change in grade 1 anterolisthesis L4 on L5. 
Chronic L4 compression fracture. Osteopenia. Severe facet joint
arthropathy. Severe spinal stenosis L3-4 and L4-5.

___-
 CT head- 
IMPRESSION:  No acute findings.

 
Brief Hospital Course:
___ female who had a fall at home two days ago, and was found at 
outside hospital to have an L1 burst fracture, with no other 
evidence of injuries, who was transferred to ___ for further 
management of the spine fracture, and admitted to the trauma 
surgery service. Neurosurgery evaluated the patient in the 
emergency room, and recommended she wear a TLSO brace when out 
of bed for her L1 burst fracture, and to follow up in their 
clinic in 6 weeks after discharge from the hospital with a Xray 
of her spine at the time.

On the floor, she was afebrile and hemodynamically stable. She 
was advanced to a regular diet, which was well tolerated. Her 
pain was controlled with oral pain medication, including 
Tramadol, Flexiril for muscle spasms, and lidocaine pathc on her 
back. Physical therapy was consulted with evaluated her and 
deemed her stable for discharge to rehab. 

At the time of discharge, she was tolerating a regular diet, her 
pain was well controlled on oral medication alone, she was 
voiding adequately and spontaneously, ambulating with 
assistance, and was deemed stable for discharge to rehab. She 
verbalized understanding of the plan and was discharged with 
appropriate outpatient followup.
 
Medications on Admission:
Amlodipine 5
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Cyclobenzaprine 10 mg PO BID:PRN muscle spasm 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth twice a day Disp 
#*15 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine [Lidocaine Pain Relief] 4 % ___ on lower back 
qam Disp #*10 Patch Refills:*0 
5.  Senna 17.2 mg PO HS 
please hold for loose stools  
6.  TraMADol 25 mg PO Q6H:PRN Pain - Severe 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*10 Tablet Refills:*0 
7.  amLODIPine 5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L1 burst fracture
fall

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Ms. ___, 
You were admitted to the hospital after a fall and were found to 
have a spine L1 fracture. You remained in the hospital to ensure 
adequate pain control. You were seen by physical therapy who has 
deemed you stable for discharge home. You are now stable for 
discharge. Please follow these instructions to aid in your 
recovery. 

Please wear your back brace when out of bed. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___